US05304325
3-Benzyl-1,2-dihexadecylglycerol (Scheme Ia)
To a refluxing mixture of benzylglycerol (50 g, 0.27 mol) and KOH (40 g, 0.76 mol), which had been freshly powdered in an electric milling device, in toluene (500 mL) was added 1-bromohexadecane (252 g, 9.76 mol) over a period of one hour. The mixture was refluxed overnight, with Dean-Stark removal of water of reaction. The slurry was stripped of toluene on a rotary evaporator, then the residue was slurried in CHC13 and washed with water. The organic phase was dried (MgSO4) and stripped. Unreacted starting material was removed by Kugelrohr distillation (150°, 1 mm Hg). The pot residue was a yellow solid of sufficient purity for use in the next step.

reactant | benzylglycerol | 0.27 mol, 50 g | C(C1=CC=CC=C1)C(O)C(O)CO | C10H14O3
reactant | KOH | 0.76 mol, 40 g | [OH-].[K+]
reactant | 1-bromohexadecane | 9.76 mol, 252 g | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | water | O | H2O
reactant | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Benzyl-1,2-dihexadecylglycerol | C(C1=CC=CC=C1)OCC(COCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCC | C42H78O3
